US04473709
Under a dry nitrogen atmosphere, 0.5 g (0.0022 mole) of N,N,2-trimethyl-[1,1'-biphenyl]-3-methanamine was dissolved in 5.5 ml of dry toluene with stirring and the solution was heated to 80° C. A solution of 0.36 g (0.0033 mole) of ethyl chloroformate in 1.1 ml of dry toluene was added dropwise during 5 minutes. The reaction mixture was stirred for 3.3 hours at 80° C., then cooled to room temperature and filtered. The solvent was removed from the filtrate under reduced pressure to give 0.5 g (100% yield) of 3-chloromethyl-2-methyl-[1,1'-biphenyl] as a light orange oil.

reactant | N,N,2-trimethyl-[1,1'-biphenyl]-3-methanamine | 0.0022 mole, 0.5 g | CN(CC=1C(=C(C=CC1)C1=CC=CC=C1)C)C | C16H19N
reactant | ethyl chloroformate | 0.0033 mole, 0.36 g | ClC(=O)OCC | C3H5ClO2
solvent | toluene | 5.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.1 ml | C1(=CC=CC=C1)C | C7H8
product | 3-chloromethyl-2-methyl-[1,1'-biphenyl] | 0.5 g, 100% yield | ClCC=1C(=C(C=CC1)C1=CC=CC=C1)C | C14H13Cl
